US04576749
(C) (S)-N-[[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]N-methyl-DL-alanine, phenylmethyl ester
A solution of phosgene in toluene (4.7 ml of a 20% solution, 9.36 mmol) was cooled to -25° C. under argon. While stirring, a solution (pre-cooled to 0° C.) of N-methyl-DL-alanine, benzyl ester (1.0 g, 5.2 mmol) and triethylamine (870 μl, 6.25 mmol) in dichloromethane (5 ml) was added over 5 minutes maintaining the temperature at -20° to -25° C. After stirring at -25° C. for 1 hour, solvent and excess phosgene were removed in vacuo. The residue was dissolved in dichloromethane (12 ml), cooled to 0° C. and then (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone (1.15 g, 5.2 mmol), dimethylaminopyridine (63 mg, 0.52 mmol), and triethylamine (870 μl, 6.2 mmol) were added sequentially. Stirring was continued for 10 minutes at 0° C. and then overnight at room temperature. After refluxing for an additional 7 hours, the mixture was again stirred overnight at room temperature. The mixture was washed with water, dried (Na2SO4) and solvent was removed in vacuo. The resulting oil was chromatographed on silica gel eluting with a 4:6 ethyl acetate:hexane mixture. The desired product was obtained as an oil (580 mg).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | N-methyl-DL-alanine, benzyl ester | 5.2 mmol, 1.0 g | CNC(C)C(=O)OCC1=CC=CC=C1 | C11H15NO2
reactant | triethylamine | 6.25 mmol, 870 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-3-[[(phenylmethoxy)carbonyl]amino]-2-azetidinone | 5.2 mmol, 1.15 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | dimethylaminopyridine | 0.52 mmol, 63 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 6.2 mmol, 870 μl | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (S)-N-[[3-[[(Phenylmethoxy)carbonyl]amino]-2-oxo-1-azetidinyl]carbonyl]N-methyl-DL-alanine, phenylmethyl ester | C1(=CC=CC=C1)COC(=O)NC1C(N(C1)C(=O)N([C@@H](C)C(=O)OCC1=CC=CC=C1)C)=O | C23H25N3O6
